US05861417
9.1.1 Synthesis of 3-cyano-3-(3,4-dimethylphenyl)pentanedioic acid diethyl ester
Combine 3,4-dimethylphenylacetonitrile (50.0 mmol) and tetrahydrofuran (140 mL). Cool to about 5° C. Add dropwise a solution of sodium bis(trimethylsilyl)amide (800 mL, 1M in tetrahydrofuran, 800 mmol). When the addition is complete, warm the reaction mixture to ambient temperature and allow to stir for 1 hour. Transfer the above solution via cannula into a cooled (-8° C.) solution of ethyl bromoacetate (84.5 mL, 762 mmol) in tetrahydrofuran (500 mL) at such a rate that the temperature of the reaction mixture does not rise above 20° C. Allow to stir at ambient temperature. After 18 hours, dilute with diethyl ether (1.5 L) and extract with saturated aqueous solution of ammonium chloride, then water, and then saturated aqueous solution of sodium chloride. Dry the organic layer over MgSO4, filter, and concentrate invacuo to give the title compound.

reactant | 3,4-dimethylphenylacetonitrile | 50.0 mmol | CC=1C=C(C=CC1C)CC#N | C10H11N
reactant | sodium bis(trimethylsilyl)amide | 800 mmol, 1M, 800 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 762 mmol, 84.5 mL | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1.5 L | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | 3-cyano-3-(3,4-dimethylphenyl)pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)C)C)C#N)=O | C18H23NO4
